US07939043B2
Diethyldipropylammonium Hydroxide (DEDPAOH)
60 g Na2CO3 was added to a solution of 40.0 g dipropylamine in 100 g ethanol, and to the mixture was further added 148 g iodoethane in five aliquots while the mixture was chilled in an ice-bath. The mixture was allowed to warm to and stand at room temperature for three days before Na2CO3 was filtered off and most of the solvent was removed. Acetone was added to precipitate more Na2CO3 which was then removed. Ethanol was used to further precipitate the remaining Na2CO3. To the ethanolic solution was added 50 g water, and the ethanol was removed via rotavapping. The aqueous iodide solution was ion-exchanged until AgNO3 indicated the absence of iodide. The concentration of the DEDPAOH solution was determined to be 3.83 M, or 67.32 wt % (S.G.=0.9945).

reactant | Na2CO3 | 60 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dipropylamine | 40.0 g | C(CC)NCCC | C6H15N
reactant | iodoethane | 148 g | ICC | C2H5I
reactant | ethanol | 100 g | C(C)O | C2H6O
product | Diethyldipropylammonium Hydroxide | [OH-].C(C)[N+](CCC)(CCC)CC | InChI=1S/C10H24N.H2O/c1-5-9-11(7-3,8-4)10-6-2;/h5-10H2,1-4H3;1H2/q+1;/p-1
